US06235731B1
1) Synthesis of N-(1-[(thiazol-4-yl)methyl]piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide
To a solution of 255 mg (1.5 mM) of 4-chloromethylthiazole, 387 mg (1 mM) of N-(piperidin-4-ylmethyl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride, and 697 ml (5 mM) of triethylamine in ethanol (10 ml) was added 225 mg (1.5 mM) of sodium iodide at room temperature and the mixture was refluxed on an oil bath at 90° C. overnight. To this reaction mixture was added water and the reaction product was extracted into ethyl acetate. The organic layer was washed with water and saturated aqueous solution of sodium chloride and dried over Na2SO4. The solvent was then distilled off under reduced pressure and the residue was subjected to silica gel column chromatography. The fractions eluting with ethyl acetate/ethanol/triethylamine (20/20/1) were pooled to provide the title compound as red oil (150 mg).

reactant | 4-chloromethylthiazole | 1.5 mM, 255 mg | ClCC=1N=CSC1 | C4H4ClNS
reactant | N-(piperidin-4-ylmethyl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | 1 mM, 387 mg | Cl.Cl.N1CCC(CC1)CNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32
reactant | triethylamine | 5 mM, 697 ml | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | 1.5 mM, 225 mg | [I-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | N-(1-[(thiazol-4-yl)methyl]piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 150 mg | S1C=NC(=C1)CN1CCC(CC1)CNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C20H21N5OS2
